US05171897
Into a 200-ml, four-necked glass flask provided with a thermometer, a dropping funnel, a stirrer and a reflux condenser were placed 58.83 g (0.3 mol) of hexafluoroneopentyl alcohol, 30.36 g (0.3 mol) of triethylamine and 50 g of chloroform. Subsequently, to the mixture was added dropwise 30.37 g (0.33 mol) of 2-fluoroacrylic fluoride at a temperature of up to 10° C. with ice-cooling. After addition, the mixture was stirred at room temperature for 30 minutes. The mixture was washed with an aqueous solution of sodium bicarbonate (5%) and then with pure water, followed by evaporation to remove chloroform, producing hexafluoroneopentyl acrylate. The amount of the obtained product was 67.17 g and the yield was 76.7%. To the product was further added 0.1 g of t-butyl catechol as a polymerization inhibitor and the mixture was distilled under reduced pressure for purification. The boiling point was 55° to 56° C./20 mm.Hg. The identification was performed with 1H-NMR spectrum, 19F-NMR spectrum and 13C-NMR spectrum (in every case, sovent: acetone-d6).

reactant | hexafluoroneopentyl alcohol | 0.3 mol, 58.83 g | FCC(C(F)(F)O)(C(F)(F)F)C | C5H6F6O
reactant | triethylamine | 0.3 mol, 30.36 g | C(C)N(CC)CC | C6H15N
reactant | 2-fluoroacrylic fluoride | 0.33 mol, 30.37 g | FC(C(=O)F)=C | C3H2F2O
solvent | chloroform | 50 g | C(Cl)(Cl)Cl | CHCl3
product | hexafluoroneopentyl acrylate | yield was 76.7% | C(C=C)(=O)OC(C(C(F)(F)F)(CF)C)(F)F | C8H8F6O2
